US08252820B2
E. 2-Benzyloxy-6-fluorophenylamine
A mixture of 1-benzyloxy-3-fluoro-2-nitrobenzene (1.32 g, 5.34 mmol), SnCl2 (4.96 g, 26.2 mmol), and 1N HCl (5.5 mL, 5.5 mmol) in EtOH (25 mL) is refluxed for 18 h. The mixture is concentrated and stirred with EtOAc and 1N NaOH solution. Solid NaOH is added until strongly basic. The precipitate is removed by filtration, and the organic phase is separated. It is then dried and concentrated. The residue is purified to give the title compound: MS (M+H)+=218.

reactant | 1-benzyloxy-3-fluoro-2-nitrobenzene | 5.34 mmol, 1.32 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | SnCl2 | 26.2 mmol, 4.96 g | Cl[Sn]Cl
reactant | HCl | 5.5 mmol, 1N, 5.5 mL | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
product | 2-Benzyloxy-6-fluorophenylamine | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)N | C13H12FNO
